US08372867B2
A solution of 4-methylbenzaldehyde oxime (2 g) and N-chlorosuccinimide (2.17 g) in dimethylformamide (20 mL) was stirred for one hour at 55° C. After the reaction solution was diluted with t-butylmethylether, the solution was washed with water and saturated brine. The organic layer was dried over-anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain N-hydroxy-4-methylbenzene carboximidoyl chloride (2 g). A solution of resultant N-hydroxy-4-methylbenzene carboximidoyl chloride and 1,3-dichloro-5-[1-(trifluoromethyl)-vinyl]benzene (5.3 g) in toluene (50 mL) was heated to reflux for 8 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel chromatography to obtain [5-(3,5-dichlorophenyl) 3-(4-methylphenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole (5.0 g).

reactant | N-hydroxy-4-methylbenzene carboximidoyl chloride | ON=C(C1=CC=C(C=C1)C)Cl | C8H8ClNO
reactant | 1,3-dichloro-5-[1-(trifluoromethyl)-vinyl]benzene | 5.3 g | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)Cl | C9H5Cl2F3
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3,5-dichlorophenyl) 3-(4-methylphenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole | 5.0 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C=C1)C)C(F)(F)F | C17H12Cl2F3NO
